US05674868
A mixture of 2.6 g of 2,6-dichloro-4-quinazolinol (described in J. Med. Chem., 1968, p.130), 3.7 g of 4-amino-N-[1-(2-aminoethyl)-4-piperidinyl]-5-chloro-2,3-dihydro-2,2-dimethyl-7-benzofurancarboxamide (described in EP-0,445,862), 0.8 g of calcium oxide and 5.64 g of N,N-dimethylacetamide was stirred for 3 hours at 140° C. After cooling, the reaction mixture was evaporated and the residue was taken up in a mixture of dichloromethane and methanol. The whole was washed with water. The partly precipitated product was filtered off (first fraction). The organic layer was decanted, dried, filtered and evaporated (second fraction). The combined fractions were purified twice by column chromatography (silica gel; CH2Cl2 /CH3 OH(NH3) 95:5; CH2Cl2 /CH3OH 92:8). The eluent of the desired fraction was evaporated and the residue was crystallized from acetonitrile. At 0° C., the product was filtered off and dried in vacuo at 60° C., yielding 1 g (18.3%) of 4-amino-5-chloro-N-[1-[2-[(6-chloro-4-hydroxy-2-quinazolinyl)amino]ethyl]-4-piperidinyl]-2,3-dihydro-2,2-dimethyl-7-benzofurancarboxamide; mp. 206.6° C. (comp. 21).

reactant | 2,6-dichloro-4-quinazolinol | 2.6 g | ClC1=NC2=CC=C(C=C2C(=N1)O)Cl | C8H4Cl2N2O
reactant | 4-amino-N-[1-(2-aminoethyl)-4-piperidinyl]-5-chloro-2,3-dihydro-2,2-dimethyl-7-benzofurancarboxamide | 3.7 g | NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)NC2CCN(CC2)CCN)Cl | C18H27ClN4O2
reactant | calcium oxide | 0.8 g | [O-2].[Ca+2]
solvent | N,N-dimethylacetamide | 5.64 g | CN(C(C)=O)C | C4H9NO
product | 4-amino-5-chloro-N-[1-[2-[(6-chloro-4-hydroxy-2-quinazolinyl)amino]ethyl]-4-piperidinyl]-2,3-dihydro-2,2-dimethyl-7-benzofurancarboxamide | 1 g, 18.3% | NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)NC2CCN(CC2)CCNC2=NC1=CC=C(C=C1C(=N2)O)Cl)Cl | C26H30Cl2N6O3
